US06342568B1
(2) 1-cyclopentadienyl-1-(2,7-di-tert-butylfluorenyl)cyclohexane
To a THF (30 ml) solution including 5.0 g (18.6 mmol) of 2,7-di-tert-butylfluorene, a hexane solution (13.5 ml, 21.6 mmol) of n-butyllithium was added dropwise at −78° C. under nitrogen, followed by stirring at room temperature for 6 hours. Next, a THF (20 ml) solution including 3.42 g (23.4 mmol) of cyclohexylfulvene was added dropwise at 0° C. under a nitrogen atmosphere, followed by stirring at room temperature for 16 hours. The resultant reaction solution was decomposed with cold water, and then extracted with ether. The extract was dried over magnesium sulfate and then filtered, and the used solvent was removed from the filtrate under reduced pressure, thereby obtaining a solid. This solid was recrystallized from methanol to obtain 5.36 g of a colorless solid.

reactant | 2,7-di-tert-butylfluorene | 18.6 mmol, 5.0 g | C(C)(C)(C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C)(C)C | C21H26
reactant | hexane | 21.6 mmol, 13.5 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclohexylfulvene | 23.4 mmol, 3.42 g | C1(CCCCC1)C1=CC=CC1=C | C12H16
solvent | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-cyclopentadienyl-1-(2,7-di-tert-butylfluorenyl)cyclohexane | 5.36 g | C1(C=CC=C1)C1(CCCCC1)C1=C(C=CC=2C3=CC=C(C=C3CC12)C(C)(C)C)C(C)(C)C | C32H40
